US05354746
3-(8-Chloro-dibenz[b,f][1,4]oxazepin-10(11H)-yl)-4-ethoxy-3-cyclobutene-1,2-dione
A mixture of 8-chloro-dibenz[b,f][1,4]oxazepine (2 g), 3,4-diethoxy-3-cyclobutene-1,2-dione (5 g), diphenylether (2 g) and dioxane (10 mL) was heated to reflux. After 2 hours, most of the dioxane was removed in vacuo and the precipitated title compound (0.75 g) was collected by filtration as yellow solid. The filtrate was treated with cold methanol when more of the title compound (1.2 g) precipitated. This material was used in Example 6 without further purification.

reactant | 8-chloro-dibenz[b,f][1,4]oxazepine | 2 g | ClC1=CC2=C(OC3=C(C=N2)C=CC=C3)C=C1 | C13H8ClNO
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 5 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | diphenylether | 2 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(8-Chloro-dibenz[b,f][1,4]oxazepin-10(11H)-yl)-4-ethoxy-3-cyclobutene-1,2-dione | ClC1=CC2=C(OC3=C(CN2C=2C(C(C2OCC)=O)=O)C=CC=C3)C=C1 | C19H14ClNO4
